** sch_path: /home/uri/p/tt-simon-game/xschem/ring_osc.sch
**.subckt ring_osc
x2 net3 net2 VDD VSS sg13g2_inv_1
x1 net2 net13 VDD VSS sg13g2_inv_1
x3 net4 net3 VDD VSS sg13g2_inv_1
x4 net5 net4 VDD VSS sg13g2_inv_1
x5 net6 net5 VDD VSS sg13g2_inv_1
x6 net1 net6 VDD VSS sg13g2_inv_1
x7 net7 net1 VDD VSS sg13g2_inv_1
x8 net8 net7 VDD VSS sg13g2_inv_1
x9 net9 net8 VDD VSS sg13g2_inv_1
x10 net10 net9 VDD VSS sg13g2_inv_1
x11 net11 net10 VDD VSS sg13g2_inv_1
x12 net12 net11 VDD VSS sg13g2_inv_1
x13 clk_out net12 VDD VSS sg13g2_inv_1
V1 VSS 0 0
V2 VDD VSS 1.2
C1 net13 VSS 2f m=1
C2 net2 VSS 2f m=1
C3 net3 VSS 2f m=1
C4 net4 VSS 2f m=1
C5 net5 VSS 2f m=1
C6 net6 VSS 2f m=1
C7 net1 VSS 2f m=1
C8 net7 VSS 2f m=1
C9 net8 VSS 2f m=1
C10 net9 VSS 2f m=1
C11 net10 VSS 2f m=1
C12 net11 VSS 2f m=1
C13 net12 VSS 2f m=1
x14 net13 en clk_out VDD VSS sg13g2_and2_1
x15 en VDD VDD VSS sg13g2_buf_1
**** begin user architecture code


.lib cornerMOSlv.lib mos_tt_stat
.lib cornerMOShv.lib mos_tt_stat
.include sg13g2_stdcell.spice

.control
save all
tran 10p 100n
write ring_osc.raw
meas tran tdiff TRIG clk_out VAL=1.1 RISE=50 TARG clk_out VAL=1.1 RISE=51
let freq_mhz = (1 / (tdiff) / 1e6)
print freq_mhz
plot clk_out
.endc


**** end user architecture code
**.ends
.end
